* Z:\mnt\design.r\spice\examples\3300-1.asc
XU1 N006 N003 N007 N005 N026 N027 N035 N036 N044 N048 N043 N047 N034 N032 MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 0 N039 N041 N037 N040 N042 N038 N033 N029 N028 N024 N021 N014 N013 N017 N011 N010 N016 N008 N020 N015 N025 MP_07 MP_08 MP_09 MP_10 MP_11 N025 LTC3300-1 Bal_Act_01=0 Bal_Act_02=1 Bal_Act_03=2 Bal_Act_04=3 Bal_Act_05=0 Bal_Act_06=1 Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
C1 N025 0 10µ
C2 N020 N018 0.1µ
R1 N019 N018 6.81
D1 N008 N019 1N5817
L1 N037 N045 10µ
R2 N039 0 25m
R3 N034 0 11.0k
R4 N032 0 30.1k
M1 N045 N041 N039 N039 Si7368DP
L2 N049 N001 10µ
M2 N049 N043 N047 N047 Si7370DP
R5 N047 0 25m
V1 N037 0 3.6
L3 N038 N046 10µ
R6 N040 N037 25m
M3 N046 N042 N040 N040 Si7368DP
L4 N050 N001 10µ
M4 N050 N044 N048 N048 Si7370DP
R7 N048 0 25m
V2 N038 N037 3.6
L5 N028 N030 10µ
R8 N033 N038 25m
M5 N030 N029 N033 N033 Si7368DP
L6 N031 N001 10µ
M6 N031 N035 N036 N036 Si7370DP
R9 N036 0 25m
V3 N028 N038 3.6
L7 N014 N022 10µ
R10 N024 N028 25m
M7 N022 N021 N024 N024 Si7368DP
L8 N023 N001 10µ
M8 N023 N026 N027 N027 Si7370DP
R11 N027 0 25m
V4 N014 N028 3.6
L9 N011 N012 10µ
R12 N013 N014 25m
M9 N012 N017 N013 N013 Si7368DP
L10 N004 N001 10µ
M10 N004 N007 N005 N005 Si7370DP
R13 N005 0 25m
V5 N011 N014 3.6
L11 N008 N009 10µ
R14 N010 N011 25m
M11 N009 N016 N010 N010 Si7368DP
L12 N002 N001 10µ
M12 N002 N006 N003 N003 Si7370DP
R15 N003 0 25m
V6 N008 N011 3.6
V7 N001 0 43.2
C3 N011 N015 220n
D2 N018 N015 1N5817
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
K2 L3 L4 1
K3 L5 L6 1
K4 L7 L8 1
K5 L9 L10 1
K6 L11 L12 1
.tran 1m startup
* Note: 1. Serial Interface features are not modeled. Parameters, Bal_Act_0n, are introduced to command \n              each cell balancing action: 0- No balance; 1- Nonsync discharge; 2- Sync discharge; 3- charge\n          2. Single transformer feature is not modeled.\n          3. The model is capable of multi-chip stack operation, even though daisy chain connection of \n              serial ports are not available.\n          4. Watchdog timer is not modeled.
.lib LTC3300-1.sub
.backanno
.end
